US04221737
1-Nitro-2-(2-butyn-1-ylamino)-2-{2-[(4-methyl-1H-imidazol-5-yl)-methylthio]ethylamino}ethylene (BL-5979)
A mixture of 1-nitro-2-methylthio-2-{2-[(4-methyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene (2.25 g, 7.8 mmole) and 2-butyn-1-amine (2.16 g, 31.2 mmole) in acetonitrile (35 ml) was stirred under a positive pressure of nitrogen at reflux temperature for 7 hours and at room temperature for 15 hours. The solvent was removed by evaporation under reduced pressure, and the residue placed on silica gel and chromatographed by gradient elution using methylene chloride-methanol. The appropriate fractions yielded 1.93 g (80%) of the title product from acetonitrile. Recrystallization from isopropyl alcohol gave the product with mp 147.5°-151°.

reactant | 1-nitro-2-methylthio-2-{2-[(4-methyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene | 7.8 mmole, 2.25 g | [N+](=O)([O-])C=C(NCCSCC1=C(N=CN1)C)SC | C10H16N4O2S2
reactant | 2-butyn-1-amine | 31.2 mmole, 2.16 g | C(C#CC)N | C4H7N
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | 1-Nitro-2-(2-butyn-1-ylamino)-2-{2-[(4-methyl-1H-imidazol-5-yl)-methylthio]ethylamino}ethylene | 1.93 g, 80% | [N+](=O)([O-])C=C(NCCSCC1=C(N=CN1)C)NCC#CC | C13H19N5O2S
